US09193720B2
A mixture of (S)-isopropyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate (1.0 g, 2.13 mmol), 2-(4-(4-fluorophenethoxy)phenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione (0.87 g, 2.434 mmol), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (0.175 g, 0.426 mmol) and 2M K3PO4 (7.99 mL, 15.98 mmol) in 1,4-Dioxane (200 mL) and Water (40.0 mL) was degassed for 10 min. Then, PdOAc2 (0.048 g, 0.213 mmol) was added, degassed for 5 min and mixture was heated at 80° C. for 3 h. After cooling to room temp, water was added and the mixture was extracted with ethyl acetate, washed with brine, dried (Na2SO4), filtered and concentrated the residue was then purified by Biotage (5-40% EtOAc/hexane) to afford (S)-isopropyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate (1.056 g, 82% yield) as white foam. 1H NMR (500 MHz, CDCl3) δ 7.32-7.26 (m, 2H), 7.18-7.14 (m, 1H), 7.09-7.01 (m, 3H), 6.99-6.93 (m, 2H), 6.07 (br. s., 1H), 5.10 (spt, J=6.2 Hz, 1H), 4.28-4.19 (m, 2H), 3.21 (d, J=12.0 Hz, 1H), 3.13 (t, J=6.9 Hz, 2H), 2.87 (t, J=12.1 Hz, 1H), 2.60 (s, 3H), 2.28 (d, J=12.8 Hz, 1H), 2.20 (s, 3H), 2.10-2.01 (m, 1H), 1.60-1.52 (m, 1H), 1.42-1.34 (m, 1H), 1.25 (d, J=6.3 Hz, 3H), 1.23 (d, J=6.3 Hz, 3H), 1.20 (s, 9H), 1.08 (d, J=12.3 Hz, 1H), 0.91 (s, 3H), 0.66 (s, 3H). 1H of piperidine was not resolved. LCMS (M+H)=606.5.

reactant | (S)-isopropyl 2-(5-bromo-4-(4,4-dimethylpiperidin-1-yl)-2,6-dimethylpyridin-3-yl)-2-(tert-butoxy)acetate | 2.13 mmol, 1.0 g | BrC=1C(=C(C(=NC1C)C)[C@@H](C(=O)OC(C)C)OC(C)(C)C)N1CCC(CC1)(C)C | C23H37BrN2O3
reactant | 2-(4-(4-fluorophenethoxy)phenyl)-6-methyl-1,3,6,2-dioxazaborocane-4,8-dione | 2.434 mmol, 0.87 g | FC1=CC=C(CCOC2=CC=C(C=C2)B2OC(CN(CC(O2)=O)C)=O)C=C1 | C19H19BFNO5
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.426 mmol, 0.175 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | K3PO4 | 15.98 mmol, 2M, 7.99 mL | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | 1,4-Dioxane | 200 mL | O1CCOCC1 | C4H8O2
solvent | Water | 40.0 mL | O | H2O
product | (S)-isopropyl 2-(tert-butoxy)-2-(4-(4,4-dimethylpiperidin-1-yl)-5-(4-(4-fluorophenethoxy)phenyl)-2,6-dimethylpyridin-3-yl)acetate | 1.056 g, 82% yield | C(C)(C)(C)O[C@H](C(=O)OC(C)C)C=1C(=NC(=C(C1N1CCC(CC1)(C)C)C1=CC=C(C=C1)OCCC1=CC=C(C=C1)F)C)C | C37H49FN2O4
